### PR TITLE
feat(GroupTheory/GroupAction/Basic): group equivalence of stabilizers

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Define `stabilizerEquivStabilizer {a b : α} {g : G} (hg : g • b = a) : stabilizer G b ≃* stabilizer G a`

Add the `trans`, `inv`,  and `one`properties.

Refactors `MulAction.stabilizerEquivStabilizerOfOrbitRel` using it.

This is a concurrent PR to #24107 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 1]
```diff
@@ -244,14 +244,44 @@ theorem stabilizer_smul_eq_stabilizer_map_conj (g : G) (a : α) :
...
+    stabilizer G b ≃* stabilizer G a :=
+  ((MulAut.conj g).subgroupMap <| stabilizer G b).trans
+    (MulEquiv.subgroupCongr (by
+      simp [← hg, stabilizer_smul_eq_stabilizer_map_conj]))
+
+theorem stabilizerEquivStabilizer_apply {a b : α} {g : G} (hg : g • b = a) (x : stabilizer G b) :
+    stabilizerEquivStabilizer hg x = MulAut.conj g x := by
+  -- simp [stabilizerEquivStabilizer]
+  simp only [stabilizerEquivStabilizer, MulEquiv.trans_apply, MulEquiv.subgroupCongr_apply,
+    MulEquiv.coe_subgroupMap_apply, MulAut.conj_apply]
```
Comment (b-mehta) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:258]: I don't have a preference if you use the squeezed or unsqueezed one here, but I guess you don't want to keep the comment?

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 2]
```diff
@@ -244,14 +244,44 @@ theorem stabilizer_smul_eq_stabilizer_map_conj (g : G) (a : α) :
   rw [mem_stabilizer_iff, ← smul_left_cancel_iff g⁻¹, smul_smul, smul_smul, smul_smul,
     inv_mul_cancel, one_smul, ← mem_stabilizer_iff, Subgroup.mem_map_equiv, MulAut.conj_symm_apply]
 
+/-- The natural group equivalence between the stabilizers of two elements in the same orbit. -/
+def stabilizerEquivStabilizer {a b : α} {g : G} (hg : g • b = a) :
```
Comment (b-mehta) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:248]: Since you use `{a b : α} {g : G}` in almost all of the lemmas, and this makes up the `Stabilizer` section, perhaps adding `variable {a b : α} {g : G}` around line 238 would make sense.

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 3]
```diff
@@ -244,14 +244,44 @@ theorem stabilizer_smul_eq_stabilizer_map_conj (g : G) (a : α) :
...
+      = (stabilizerEquivStabilizer hk) := by
+  ext x; simp [stabilizerEquivStabilizer_apply, H]
+
+theorem stabilizerEquivStabilizer_one {a : α} :
+    stabilizerEquivStabilizer (one_smul G a) = MulEquiv.refl (stabilizer G a) := by
+  ext; simp [stabilizerEquivStabilizer_apply]
+
+theorem stabilizerEquivStabilizer_inv {a b : α} {g : G} (hg : g • b = a) :
+    let hg' : g⁻¹ • a = b := inv_smul_eq_iff.mpr (id (Eq.symm hg))
+    stabilizerEquivStabilizer hg' = (stabilizerEquivStabilizer hg).symm := by
```
Comment (b-mehta) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:277]:
```suggestion
    stabilizerEquivStabilizer (inv_smul_eq_iff.2 hg.symm) = (stabilizerEquivStabilizer hg).symm := by
```

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 4]
```diff
@@ -244,14 +244,44 @@ theorem stabilizer_smul_eq_stabilizer_map_conj (g : G) (a : α) :
   rw [mem_stabilizer_iff, ← smul_left_cancel_iff g⁻¹, smul_smul, smul_smul, smul_smul,
     inv_mul_cancel, one_smul, ← mem_stabilizer_iff, Subgroup.mem_map_equiv, MulAut.conj_symm_apply]
 
+/-- The natural group equivalence between the stabilizers of two elements in the same orbit. -/
+def stabilizerEquivStabilizer {a b : α} {g : G} (hg : g • b = a) :
+    stabilizer G b ≃* stabilizer G a :=
```
Comment (b-mehta) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:249]: I wonder if it makes more sense to state this as `stabilizer G b ≃* stabilizer G (g • b)` (or the reverse), that way you don't need to take a propositional argument to this. And we could have `copy : stabilizer G a ≃* stabilizer G b` to ease translation, as is the usual pattern. But let's perhaps also see what other reviewers think about this.

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 5]
```diff
@@ -268,17 +298,32 @@ theorem stabilizer_vadd_eq_stabilizer_map_conj (g : G) (a : α) :
     neg_add_cancel, zero_vadd, ← mem_stabilizer_iff, AddSubgroup.mem_map_equiv,
     AddAut.conj_symm_apply]
 
+/-- The natural group equivalence between the stabilizers of two elements in the same orbit. -/
+def stabilizerEquivStabilizer {a b : α} {g : G} (hg : g +ᵥ b = a) :
```
Comment (b-mehta) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:302]: Does it work to get this one (and its theorems) by using `to_additive` on the earlier ones?

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/GroupTheory/GroupAction/Basic.lean:277]: (I haven't tested this, but I expect it should work!)

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean:302]: No, because `AddAut.conj` is not exactly the translation of `MulAut.conj`, it also wraps things into an `Additive _`.

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean:249]: I tried to do that, the definitions are OK, but then the trans property is unnatural: to be stated, it needs to rewrite `h • g • a = h * g • a`,  and then I can't prove that it holds.

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean]: I did that, I also changed the order of these implicit arguments.

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean]: It works, indeed.

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean]: I've asked about this in [#mathlib4 > avoiding HEq @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/avoiding.20HEq/near/512266402)

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 6]
```diff
@@ -244,14 +244,42 @@ theorem stabilizer_smul_eq_stabilizer_map_conj (g : G) (a : α) :
...
+
+variable {a} in
+theorem stabilizerEquivStabilizer_symm_apply (x : stabilizer G (g • a)) :
+    (stabilizerEquivStabilizer g a).symm x = MulAut.conj g⁻¹ x := by
+  simp [stabilizerEquivStabilizer]
+
+theorem stabilizerEquivStabilizer_trans :
+    (stabilizerEquivStabilizer g a).trans (stabilizerEquivStabilizer h (g • a)) =
+      (stabilizerEquivStabilizer (h * g) a).trans (MulEquiv.subgroupCongr (by rw [mul_smul])) := by
+  ext x; simp [stabilizerEquivStabilizer]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:267]: Can you also add `stabilizerEquivStabilizer_mul`, which is the flipped version, but with the `subgroupCongr` remaining on the RHS?
